US04714492
2.5 gms of 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinic acid, 0.286 gms of NaOH and 50 mls of dry methanol were mixed. Evaporation of the solvent provided 2.6 gms of sodium 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinate as a tan glassy solid.

reactant | 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinic acid | 2.5 gms | BrC1=C(N(C(=C(C(=O)O)C1=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C19H14BrNO3
reactant | NaOH | 0.286 gms | [OH-].[Na+]
solvent | methanol | 50 mls | CO | CH4O
product | sodium 5-bromo-1-methyl-2,6-diphenyl-4-oxonicotinate | 2.6 gms | BrC1=C(N(C(=C(C(=O)[O-])C1=O)C1=CC=CC=C1)C)C1=CC=CC=C1.[Na+] | InChI=1S/C19H14BrNO3.Na/c1-21-16(12-8-4-2-5-9-12)14(19(23)24)18(22)15(20)17(21)13-10-6-3-7-11-13;/h2-11H,1H3,(H,23,24);/q;+1/p-1
